US04276304
7.7 g of sodium are added to 220 ml of anhydrous methanol, and 50 g of piperonal and 90 g of 2-nitropropane are added thereto. The mixture is stirred at room temperature for one hour, and then refluxed for 4 hours. After cooling, the reaction mixture is poured into ice-water containing 21 g of acetic acid, and then extracted with ether. The extract is washed with a saturated sodium chloride solution, a saturated sodium bisulfite solution and a saturated sodium chloride solution, successively. The washed extract is dried and then evaporated to remove solvent. 15 g of 1-(3,4-methylenedioxyphenyl)-2-methyl-2-nitropropanol are thereby obtained as a crude oil.

reactant | sodium | 7.7 g | [Na] | Na
reactant | methanol | 220 ml | CO | CH4O
reactant | piperonal | 50 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 2-nitropropane | 90 g | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3,4-methylenedioxyphenyl)-2-methyl-2-nitropropanol | 15 g | C1OC=2C=C(C=CC2O1)C(C(C)([N+](=O)[O-])C)O | C11H13NO5
